US04061647
2-Benzylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 10 from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 1.8 g of 1-benzyl-3-methyl-thiourea. Mp. 173° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1-benzyl-3-methyl-thiourea | 1.8 g | C(C1=CC=CC=C1)NC(=S)NC | C9H12N2S
product | 2-Benzylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C1=CC=CC=C1)N=C1SCC(N1C)(O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | InChI=1S/C17H17Cl2N3O3S2.BrH/c1-22-16(21-9-11-5-3-2-4-6-11)26-10-17(22,23)12-7-15(27(20,24)25)14(19)8-13(12)18;/h2-8,23H,9-10H2,1H3,(H2,20,24,25);1H
